US07342127B2
2-Nitro-5-hydroxybenzotrifluoride (2.0 g, 9.7 mmol) was dissolved in a mixture of MeOH and CH2Cl2 (80 mL, 1:1) at 0° C. Benzyltrimethylammoniumtribromide (7.53 g, 19.3 mmol) and CaCO3 (2.0 g, 19.3 mmol) was added. The reaction mixture was heated at reflux for three days. The reaction was deemed complete by HPLC and LC/MS analysis and quenched by the addition of 1N HCl. The reaction mixture was washed with brine, dried with MgSO4 and purified on column (silica gel, with gradient elution of CHCl3/MeOH). This gave to 550 mg (16%) of 2,6-dibromo-3-trifluoromethyl-4-nitrophenol.

reactant | 2-Nitro-5-hydroxybenzotrifluoride | 9.7 mmol, 2.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)O)C(F)(F)F | C7H4F3NO3
reactant | Benzyltrimethylammoniumtribromide | 19.3 mmol, 7.53 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | CaCO3 | 19.3 mmol, 2.0 g | C(=O)([O-])[O-].[Ca+2]
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2,6-dibromo-3-trifluoromethyl-4-nitrophenol | 550 mg, 16% | BrC1=C(C(=CC(=C1C(F)(F)F)[N+](=O)[O-])Br)O | C7H2Br2F3NO3
